US07691848B2
Step C. (10,11-Dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-(2′-methoxy-2-methyl-[1,1′-biphenyl]-4-yl)-methanone
To a stirred solution of 2′-methoxy-2-methyl-biphenyl-4-carboxylic acid (0.250 g; 1.032 mmol) in dichloromethane (20 mL) was added one drop of N,N-dimethylformamide followed by dropwise addition of oxalyl chloride (0.144 mL; 1.65 mmol). After stirring for one hour, the mixture was thoroughly evaporated to give the crude acid chloride as a brown oil. The acid chloride then was dissolved in dichloromethane (5 mL) and slowly added to a solution of 10,11-dihydro-5H-pyrrolo [2,1-c][1,4] benzodiazepine (0.57 g, 3.10 mmol) and N,N-diisopropylethyl amine (0.79 mL, 4.53 mmol) in dichloromethane (15 mL). After stirring for 1 hour, the reaction was quenched with water. The organic layer was washed with 1 N hydrochloric acid, 1 N sodium hydroxide and brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give a yellow foam. Purification by flash chromatography using a solvent gradient of 5 to 15% ethyl acetate in hexane yielded a white foam which crystallized upon sonication in ethanol/hexane to give 0.42 g of the desired title product as a white solid, m.p. 133-135° C. MS [(+)ESI, m/z]: 409 [M+H]+. Anal. Calcd. for C27H24N2O2: C, 79.39; H, 5.92; N, 6.86. Found: C, 79.16; H, 5.87; N, 6.90.

reactant | 2′-methoxy-2-methyl-biphenyl-4-carboxylic acid | 1.032 mmol, 0.250 g | COC1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)O)C | C15H14O3
reactant | oxalyl chloride | 1.65 mmol, 0.144 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 10,11-dihydro-5H-pyrrolo [2,1-c][1,4] benzodiazepine | 3.10 mmol, 0.57 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | N,N-diisopropylethyl amine | 4.53 mmol, 0.79 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (10,11-Dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-(2′-methoxy-2-methyl-[1,1′-biphenyl]-4-yl)-methanone | 0.42 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC(=C(C=C1)C1=C(C=CC=C1)OC)C | C27H24N2O2
